US07498326B2
(c) cis-(3-Hydroxy-piperidin-4-yl)-carbamic acid tert-butyl ester isomer 2
10.0 g of cis-4-tert-Butoxycarbonylamino-3-hydroxy-piperidine-1-carboxylic acid benzyl ester slow running Isomer 2 (10b), was dissolved in methanol (350 mL) and was degassed. Pearlman's catalyst (palladium hydroxide on carbon, 20wt % Pd (dry basis), ≦50% water, 500 mg) was added and the mixture was purged with hydrogen and stirring continued under a balloon of hydrogen for 12 hours. The mixture was degassed with argon, filtered through a pad of Celite, and evaporated to dryness to afford 6.2 g (100%) of a white solid.

reactant | cis-4-tert-Butoxycarbonylamino-3-hydroxy-piperidine-1-carboxylic acid benzyl ester | 10.0 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OC(C)(C)C)O | C18H26N2O5
solvent | methanol | 350 mL | CO | CH4O
product | cis-(3-Hydroxy-piperidin-4-yl)-carbamic acid tert-butyl ester | 6.2 g, 100% | C(C)(C)(C)OC(N[C@@H]1[C@@H](CNCC1)O)=O | C10H20N2O3
